### PR TITLE
Fix a misformalization of putnam_2022_b1

### PR DESCRIPTION
**Pull request by eric-wieser**
This falsely stated that exp had a finite polynomial expansion.

This also cleans up the spelling of "with integer coefficients".

### CODE REVIEW

File: lean4/src/putnam_2022_b1.lean [hunk 1]
```diff
@@ -7,14 +7,13 @@ open Polynomial
...
-: ∀ k : ℕ, B.coeff k ≠ 0 :=
-sorry
+    (n : ℕ)
+    (P : Polynomial ℤ)
+    (b : ℕ → ℝ)
+    (npos : n ≥ 1)
+    (Pconst : P.coeff 0 = 0)
+    (Pdegree : P.degree = n)
+    (Podd : Odd (P.coeff 1))
+    (hB : ∀ x : ℝ, HasSum (fun i => b i * x ^ i) (Real.exp (aeval x P))) :
```
Comment (eric-wieser) [inline lean4/src/putnam_2022_b1.lean:17]: I think there might be a preferred spelling of this with `PowerSeries` or `FormalMultilinearSeries`, but I couldn't work it out.

**Comment by GeorgeTsoukalas** [comment]
I actually caught this one yesterday! See #225. Which spelling do you think is better?

**Comment by eric-wieser** [comment]
Ah, nice! I guess either spelling is probably fine, though `tsum` is slightly riskier in general since on non-summable series it is zero.

**Comment by GeorgeTsoukalas** [comment]
Good point. I can remove that commit from my PR and merge this one instead, if you'd like. I tend to prefer the changes in here (and the comment you had about 'B' -> 'b' is already applied here).

File: lean4/src/putnam_2022_b1.lean (hunk 1 above)
Comment (eric-wieser) [reply lean4/src/putnam_2022_b1.lean:17]: @ocfnash, do you think HasSum or tsum is better here?

Comment (ocfnash) [reply lean4/src/putnam_2022_b1.lean:17]: I have a mild preference for `HasSum` here but either is fine.

File: lean4/src/putnam_2022_b1.lean [hunk 2]
```diff
@@ -7,14 +7,13 @@ open Polynomial
...
-(Podd : Odd (round (P.coeff 1)))
-(hB : ∀ x : ℝ, Real.exp (P.eval x) = B.eval x)
-: ∀ k : ℕ, B.coeff k ≠ 0 :=
-sorry
+    (n : ℕ)
+    (P : Polynomial ℤ)
+    (b : ℕ → ℝ)
+    (npos : n ≥ 1)
+    (Pconst : P.coeff 0 = 0)
+    (Pdegree : P.degree = n)
```
Comment (ocfnash) [inline lean4/src/putnam_2022_b1.lean:15]: You could drop `n` entirely and just write:
```suggestion
    (Pdegree : 0 < P.degree)
```
Even Lean agrees (warning ugly proof):
```lean
example (P : Polynomial ℤ) (h : Odd (P.coeff 1)) :
    0 < P.degree := by
  have h0 : ¬ Odd (0 : ℤ) := by simp [← Int.not_even_iff_odd, not_not]
  have hP : 0 ≤ P.degree := by
    rw [Polynomial.zero_le_degree_iff]
    rintro rfl
    rw [Polynomial.coeff_zero] at h
    contradiction
  suffices P.degree ≠ 0 from lt_of_le_of_ne hP this.symm
  rintro contra
  rw [Polynomial.eq_C_of_degree_eq_zero contra, Polynomial.coeff_C_succ] at h
  contradiction
```

Comment (eric-wieser) [reply lean4/src/putnam_2022_b1.lean:15]: Yes, I guess the question is whether including `n` makes this a more literal translation.

Comment (GeorgeTsoukalas) [reply lean4/src/putnam_2022_b1.lean:15]: I think it can be dropped, I would say the informal statement mostly uses it to describe the form of a polynomial which is unnecessary.

Comment (eric-wieser) [reply lean4/src/putnam_2022_b1.lean]: Done.

**Review by GeorgeTsoukalas — APPROVED** [review]
Thanks for the contribution, Eric!
